US06762180B1
(2) 3-Z-[1-(4-(piperidin-1-yl-methyl)-anilino)-1-phenyl-methylene]-6-isopropyloxycarbonyl-2-indolinone
Prepared from 3-Z-[1-(4-(piperidin-1-yl-methyl)-anilino)-1-phenyl-methylene]-6-carboxy-2-indolinone and isopropanol Rf value: 0.4 (aluminium oxide, methylene chloride/isopropanol=30:1) C31H33N3O3

reactant | 3-Z-[1-(4-(piperidin-1-yl-methyl)-anilino)-1-phenyl-methylene]-6-carboxy-2-indolinone | N1(CCCCC1)CC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(=O)O)=O)C=C1 | C28H27N3O3
reactant | isopropanol | C(C)(C)O | C3H8O
product | 3-Z-[1-(4-(piperidin-1-yl-methyl)-anilino)-1-phenyl-methylene]-6-isopropyloxycarbonyl-2-indolinone | N1(CCCCC1)CC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(=O)OC(C)C)=O)C=C1 | C31H33N3O3
